US05470862
To a sodium ethoxide solution (2.7 g of sodium and 50 ml of ethanol), a mixture of diethyl oxalate (14.48 g) and 5-acetyl-4-methyloxazole (12.4 g) was added dropwise at 0° C. The resulting mixture as stirred at room temperature for 1.5 hours, and concentrated. The residue was treated with 150 ml of water, and neutralized with 6N HCl. The resulting mixture was filtered to afford 17.5 g of 2,4-diketo-4-(4-methyloxazol-5-yl)butyric acid ethyl ester as white solids. NMR: 1.41 (t, 3H), 2.60 (s, 3H, oxazolyl methyl), 4.40 (q, 2H), 6.93 (s, 1H), 7.99 (s, 1H, 2-oxazolyl H).

reactant | diethyl oxalate | 14.48 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 5-acetyl-4-methyloxazole | 12.4 g | C(C)(=O)C1=C(N=CO1)C | C6H7NO2
solvent | sodium ethoxide | 50 ml, 2.7 g | [O-]CC.[Na+]
product | 2,4-diketo-4-(4-methyloxazol-5-yl)butyric acid ethyl ester | 17.5 g | C(C)OC(C(CC(C1=C(N=CO1)C)=O)=O)=O | C10H11NO5
